US04596819
1.83 g (0.005 mol) (S)-1,1-dimethylethyl [[4-methyl-2-[[[5-methyl-2-thienyl]carbonyl]amino]pentyl]thio]acetate and 10 ml trifluoroacetic acid are reacted according to the procedure for Example 4 to give 0.75 g of (S)-[[4-methyl-2-[[(5-methyl-2-thienyl)carbonyl]amino]pentyl]thio]-acetic acid as a viscous oil. [α]D25 +57.3° (c 0.52, methanol).

reactant | (S)-1,1-dimethylethyl [[4-methyl-2-[[[5-methyl-2-thienyl]carbonyl]amino]pentyl]thio]acetate | 0.005 mol, 1.83 g | CC(C[C@@H](CSCC(=O)OC(C)(C)C)NC(=O)C=1SC(=CC1)C)C | C18H29NO3S2
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (S)-[[4-methyl-2-[[(5-methyl-2-thienyl)carbonyl]amino]pentyl]thio]-acetic acid | 0.75 g | CC(C[C@@H](CSCC(=O)O)NC(=O)C=1SC(=CC1)C)C | C14H21NO3S2
